US06544298B1
4.45 ml of N-methylimidazole (56 mmol) were added to a suspension of 5 g of 2-chloro-N-(3,5-dichloro-2-hydroxy-4-methylphenyl)acetamide (18.6 mmol), obtained above in the preceding step, in 5 ml of ethyl acetate, leading to a clear solution. After 3 hours and 30 minutes, the insoluble product which formed was drained and abundantly washed with ethyl acetate. The new precipitate which formed in the filtrates was drained and abundantly washed with ethyl acetate. The white powders thus obtained were combined and dried to give 5 g of 3-[(3,5-dichloro-2-hydroxy-4-methylphenylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride whose melting point was 251° C., (yield 77%).

reactant | N-methylimidazole | 56 mmol, 4.45 ml | CN1C=NC=C1 | C4H6N2
reactant | 2-chloro-N-(3,5-dichloro-2-hydroxy-4-methylphenyl)acetamide | 18.6 mmol, 5 g | ClCC(=O)NC1=C(C(=C(C(=C1)Cl)C)Cl)O | C9H8Cl3NO2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(3,5-dichloro-2-hydroxy-4-methylphenylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride | 5 g, yield 77% | [Cl-].ClC=1C(=C(C=C(C1C)Cl)NC(=O)CN1C=[N+](C=C1)C)O | InChI=1S/C13H13Cl2N3O2.ClH/c1-8-9(14)5-10(13(20)12(8)15)16-11(19)6-18-4-3-17(2)7-18;/h3-5,7H,6H2,1-2H3,(H-,16,19,20);1H
